data/mechanism_extracts/JOC/10.1021_acs.joc.3c02934.json
{"doi": "10.1021_acs.joc.3c02934", "journal": "JOC", "is_review": false, "rxn_class_summary": "Electrochemical intramolecular 6-endo-trig cyclization/selenylation of 2-aminochalcones (and 2-hydroxychalcones) with diaryl diselenides to give 3-selenyl azaflavanones and flavanones", "mechanism_family": ["radical_cathodic", "radical_polar_crossover", "direct_SET"], "electrochemical_role": "Cathodic reduction of (PhSe)2 generates the [PhSeSePh]•– radical anion that fragments to PhSe• (and PhSe–, which is reoxidized at the graphite anode to PhSe•); the resulting PhSe radical adds to the chalcone, and the benzyl radical adduct is then anodically oxidized (SET) to a cation that cyclizes", "key_intermediates": [{"name": "diphenyl diselenide radical anion [PhSeSePh]•–", "smiles": null, "role": "transient"}, {"name": "phenylselenyl radical (PhSe•)", "smiles": "[Se]c1ccccc1", "role": "reactive"}, {"name": "phenylselenide anion (PhSe–)", "smiles": "[Se-]c1ccccc1", "role": "transient"}, {"name": "phenylselenyl cation (PhSe+) from anodic oxidation", "smiles": null, "role": "transient"}, {"name": "α-selenyl benzyl C-radical adduct (IV) on chalcone β-carbon", "smiles": null, "role": "reactive"}, {"name": "β-selenyl carbocation (V) after anodic SET", "smiles": null, "role": "reactive"}, {"name": "seleniranium ion (VI)", "smiles": null, "role": "reactive"}, {"name": "N-cyclized cationic intermediate (VII) prior to deprotonation", "smiles": null, "role": "transient"}], "electron_flow": "Cathode reduces (PhSe)2 to its radical anion which cleaves to PhSe• and PhSe–; PhSe– is reoxidized at the anode to PhSe•. PhSe• adds to the chalcone C=C giving a stabilized benzyl radical, which is anodically oxidized to a cation that tautomerizes to a seleniranium ion and is opened by intramolecular anti-nucleophilic attack of the N–H (or O–H), followed by deprotonation to give the trans product.", "rate_determining_step": null, "probe_reagents": [{"name": "BHT (butylated hydroxytoluene)", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "2.0 equiv BHT completely inhibited formation of 3aa, indicating radical intermediates"}, {"name": "PhSeCl (no current)", "smiles": "Cl[Se]c1ccccc1", "purpose": "intermediate_trap", "observation": "Without current, 1a + PhSeCl gave 3aa in 88%, showing an ionic (PhSe+) pathway is also viable"}, {"name": "PhSeH (no current)", "smiles": "[SeH]c1ccccc1", "purpose": "intermediate_trap", "observation": "0% 3aa without current"}, {"name": "PhSeH (with current)", "smiles": "[SeH]c1ccccc1", "purpose": "intermediate_trap", "observation": "72% 3aa under current, consistent with PhSe• being the active species generated electrochemically"}, {"name": "cyclic voltammetry of (PhSe)2 and 1a", "smiles": null, "purpose": "redox_probe", "observation": "(PhSe)2 reduction at 0.06 V and oxidation at 0.885 V (vs Ag/AgCl); 1a has higher oxidation/reduction potentials, so 2a is preferentially reduced at the cathode initiating the process"}], "evidence_types_used": ["intermediate_trap_BHT", "cyclic_voltammetry", "stoichiometric_intermediate", "intermediate_trap_other"], "evidence_strength": "medium", "notes": "Authors propose a dominant radical pathway (cathodic reduction of (PhSe)2 → PhSe• addition → anodic oxidation of benzyl radical → seleniranium → anti cyclization gives trans-product, dr > 20:1). A parallel ionic pathway via direct anodic generation of PhSe+ (II-2) leading to seleniranium VI is acknowledged as occurring simultaneously but is slower; this is supported by the PhSeCl-without-current control."}
